US04113940
A solution of 2-methyl-7-[N-(tert.-butoxycarbonyl)-2-(4-methylthiophenyl)glycyl]amino-3-cephem-4-carboxylic acid (3.0 g) in formic acid (100 ml) was stirred for 1 hour under anhydrous condition at room temperature. After the reaction was completed, the solvent was removed from the reaction mixture under reduced pressure, and the residue was dissolved in a mixture of water and ethyl acetate, after which the aqueous layer was separated. The aqueous layer was washed with ethyl acetate, and the organic solvent was completely removed under reduced pressure. The insoluble material was collected by filtration and lyophilized to give white powder of 2-methyl-7-[2-(4-methylthiophenyl)glycyl]amino-3-cephem-4-carboxylic acid (1.2 g), mp 165° to 175° C.

reactant | 2-methyl-7-[N-(tert.-butoxycarbonyl)-2-(4-methylthiophenyl)glycyl]amino-3-cephem-4-carboxylic acid | 3.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(NC(=O)OC(C)(C)C)C2=CC=C(C=C2)SC)=O)=O | C22H27N3O6S2
solvent | formic acid | 100 ml | C(=O)O | CH2O2
product | 2-methyl-7-[2-(4-methylthiophenyl)glycyl]amino-3-cephem-4-carboxylic acid | 1.2 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(N)C2=CC=C(C=C2)SC)=O)=O | C17H19N3O4S2
